US07351719B2
213) (E)-N-{3-chloro-4-[2-(4-methyl-piperidin-1-yl)-ethyl]-phenyl}-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide
Prepared in DMF analogously to Example 143 starting from (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid (Z37b) and 3-chloro-4-[2-(4-methyl-piperidin-1-yl)-ethyl]-phenylamine (Z46c). The crude product was purified by column chromatography (Alox, neutral, act. II-III, gradient petroleum ether/EtOAc 3:1→2:1) and then triturated with petroleum ether.

reactant | (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid | ClC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C10H6ClF3O2
reactant | 3-chloro-4-[2-(4-methyl-piperidin-1-yl)-ethyl]-phenylamine | ClC=1C=C(C=CC1CCN1CCC(CC1)C)N | C14H21ClN2
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-N-{3-chloro-4-[2-(4-methyl-piperidin-1-yl)-ethyl]-phenyl}-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | ClC=1C=C(C=CC1CCN1CCC(CC1)C)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C24H25Cl2F3N2O
